US03941796
About 77.1 g. of (3,4-dimethoxyphenyl) (6-methyl-2-pyridyl) ketone, 74.1 g. of p-toluenesulfonic acid and 22.8 ml of 1,3-propanediol in 600 ml of toluene were heated under reflux with stirring for 17 hours. The water evolved during the reaction was neutralized with 500 ml of saturated sodium bicarbonate. Two phases formed and the phases were separated. The organic layer was washed with saturated sodium bicarbonate solution and dried over magnesium sulfate. Removal of the desiccant and solvent gave a solid residue which, on recrystallization from a mixture of acetone and petroleum ether (b.p. 60°-80°C.), yielded 2-(3,4-dimethoxyphenyl)-2-(6-methyl-2-pyridyl)-1,3-dioxane, m.p. 124°-126°C.

reactant | (3,4-dimethoxyphenyl) (6-methyl-2-pyridyl) ketone | CC1=CC=CC(=N1)C(=O)C1=CC(=C(C=C1)OC)OC | C15H15NO3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 1,3-propanediol | 22.8 ml | C(CCO)O | C3H8O2
reactant | sodium bicarbonate | 500 ml | C([O-])(O)=O.[Na+]
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-(3,4-dimethoxyphenyl)-2-(6-methyl-2-pyridyl)-1,3-dioxane | COC=1C=C(C=CC1OC)C1(OCCCO1)C1=NC(=CC=C1)C | C18H21NO4
